US07671201B2
Step D Synthesis of 5-(3,3-dichloroprop-2-enyloxy)-1,3-dichloro-2-piperazinylbenzene as an Intermediate
Under a nitrogen atmosphere, a stirred solution of 1.8 gram (0.0039 mole) of tert-butyl 4-[4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenyl]piperazinecarboxylate in 30 mL of methylene chloride was cooled to about 0° C. and 0.53 gram (0.0039 mole) of aluminum chloride was added portion-wise. Upon completion of addition the reaction mixture was allowed to warm to ambient temperature where it stirred during a five hour period. After this time 20 mL of an aqueous solution of 10% sodium hydroxide was added dropwise, then the mixture was extracted with two 25 mL portions of ethyl acetate. The combined extracts were washed with one 25 mL portion of an aqueous solution saturated with sodium chloride, dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 1.2 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | tert-butyl 4-[4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenyl]piperazinecarboxylate | 0.0039 mole, 1.8 gram | ClC(=CCOC1=CC(=C(C(=C1)Cl)N1CCN(CC1)C(=O)OC(C)(C)C)Cl)Cl | C18H22Cl4N2O3
reactant | aluminum chloride | 0.0039 mole, 0.53 gram | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 30 mL | C(Cl)Cl | CH2Cl2
product | 5-(3,3-dichloroprop-2-enyloxy)-1,3-dichloro-2-piperazinylbenzene | 1.2 grams | ClC(=CCOC=1C=C(C(=C(C1)Cl)N1CCNCC1)Cl)Cl | C13H14Cl4N2O
